Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Right renal mass
 
Major Surgical or Invasive Procedure:
RIGHT ROBOTIC ASSISTED LAPAROSCOPIC RADICAL NEPHRECTOMY

 
History of Present Illness:
___ is a ___ year old male with an
7cm right renal mass. 

This was incidentally found on ___. The initial imaging
was performed because of pleuritic chest pain.  This prompted a
CT Chest at ___ which showed no thoracic or
pulmonary pathology, but did show a right renal mass.

Imaging has been repeated as of yesterday, which confirmed a
large 7.6 cm neoplastic mass in the right kidney.  There was no
evidence of metastatic disease.  

Lower urinary symptoms include:
[] Weak Stream
[] Trouble initiating the urinary stream
[] Frequency
[] Urgency
[x] Nocturia x 2

He denies hematuria. He reports some intercostal pain when he
lifts something heavy.

In addition, he reports that he has lost ___ lbs over the past
month. He believes this was intentional, as ___ has been
exercising ___ x per week.  He denies any fevers, night sweats.
 
Past Medical History:
lumbar spondylosis/disc degeneration, hemorrhoids, varicose 
veins 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Gen: NAD, resting comfortably, AAO
 Pulm: nonlabored breathing, normal chest rise, acyanotic
 Abd: obese. soft, ND. Incisions cdi.
 GU: foley draining clear urine; removed. voiding cyu. 
 Right hemiscrotum with some increased swelling s/p IUC removal.
no pain. uncirc'd.
 Ext: WWP. Wearing SCDs. No calf pain bilaterally. 
 
Pertinent Results:
___ 07:53PM   GLUCOSE-142* UREA N-15 CREAT-1.3* SODIUM-140 
POTASSIUM-4.4 CHLORIDE-106 TOTAL CO2-23 ANION GAP-11
___ 07:53PM   WBC-9.5 RBC-4.70 HGB-13.5* HCT-41.6 MCV-89 
MCH-28.7 MCHC-32.5 RDW-14.4 RDWSD-46.5*
___ 07:53PM   PLT COUNT-127*
 
Brief Hospital Course:
Patient was admitted to Urology after undergoing laparoscopic 
left radical nephrectomy with Dr. ___. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. The patient received perioperative antibiotic 
prophylaxis. The patient was transferred to the floor from the 
PACU in stable condition. On POD0, pain was well controlled on 
PCA, hydrated for urine output >30cc/hour, provided with 
pneumoboots and incentive spirometry for prophylaxis, and 
ambulated once. He was noted to have a corneal abrasion in the 
right eye for which he was seen by opthalmology. 

On POD1, the patient was restarted on home medications, basic 
metabolic panel and complete blood count were checked, pain 
control was transitioned from PCA to oral analgesics, diet was 
advanced to a clears/toast and crackers diet. He had a bump in 
Cr to 1.5 on POD1. On POD1, Foley catheter was removed without 
difficulty and diet was advanced as tolerated. His Cr on POD2 
was increased to 1.8 for which he was given a gentle 500 cc 
bolus of normal saline. He was noted to be hypertensive to the 
maximum SBP of 170s and he was restarted on his home medications 
and monitored closely. It is recommended he follow up closely 
with his PCP for HTN control. 

The remainder of the hospital course was relatively 
unremarkable. The patient was discharged in stable condition, 
eating well, ambulating independently, voiding without 
difficulty, and with pain control on oral analgesics. On exam, 
incision was clean, dry, and intact, with no evidence of 
hematoma collection or infection. The patient was given explicit 
instructions to follow-up in clinic as scheduled with Dr. 
___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO DAILY 
2. diclofenac sodium 1 % topical TID 
3. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
4. Gabapentin 300 mg PO DAILY:PRN pain 
5. Hydrochlorothiazide 12.5 mg PO DAILY 
6. Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
7. Losartan Potassium 50 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. tadalafil 10 mg oral DAILY:PRN erection 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Artificial Tears ___ DROP BOTH EYES Q6H:PRN corneal abrasion 
  
3.  Ciprofloxacin 0.3% Ophth Soln ___ DROP BOTH EYES Q6H  
4.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Col-Rite] 100 mg one capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
5.  Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE QID  
6.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg one tablet(s) by mouth q6hrs Disp #*15 Tablet 
Refills:*0 
7.  Senna 17.2 mg PO QHS  
8.  diclofenac sodium 1 % topical TID  
9.  Fluticasone Propionate 110mcg 2 PUFF IH BID PRN congestion  
10.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
11.  Gabapentin 300 mg PO DAILY:PRN spasms  
12.  Hydrochlorothiazide 12.5 mg PO DAILY  
13.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild  
14.  Losartan Potassium 50 mg PO DAILY  
15.  Multivitamins 1 TAB PO DAILY  
16.  tadalafil 10 mg oral DAILY:PRN erection  
17.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
neoplasm of uncertain behaviour, right kidney
corneal abrasian

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ reduce the strain/pressure on your abdomen and incision 
sites; remember to _x0093_log roll_x0094_ onto your side and then use your 
hands to push yourself upright while taking advantage of the 
momentum of putting your legs/feet to the ground.

--There may be bandage strips called _x0093_steristrips_x0094_ which have 
been applied to reinforce wound closure. Allow these bandage 
strips to fall off on their own over time but PLEASE REMOVE ANY 
REMAINING GAUZE DRESSINGS WITHIN 2 DAYS OF DISCHARGE. You may 
get the steristrips wet.

-UNLESS OTHERWISE NOTED; AVOID aspirin or aspirin containing 
products and supplements that may have _x0093_blood-thinning_x0094_ effects 
(like Fish Oil, Vitamin E, etc.). This will be noted in your 
medication reconciliation.

IF PRESCRIBED (see the MEDICATION RECONCILIATION):
-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control.

For pain control, try TYLENOL (acetaminophen) FIRST, then 
ibuprofen, and then take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Call your Urologist's office to schedule/confirm your follow-up 
appointment in 4 weeks AND if you have any questions.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
_x0093_couch potato_x0094_

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___.

-Max daily Tylenol (acetaminophen) dose is THREE to FOUR grams 
from ALL sources

_x0095_ AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for TWO WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given _x0093_prescriptions_x0094_ for a stool softener and/or a 
gentle laxative. These are over-the-counter medications that may 
be _x0093_health care spending account reimbursable._x0094_

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation.
 
Followup Instructions:
___